US06211199B1
20.2 Synthesis of 3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine
Combine 1-benzyl-3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine (0.72 g, 2.45 mmol) and methanol (20 mL). Add 20% palladium hydroxide-on-carbon (0.231 g). Hydrogenate in a Parr apparatus at an initial pressure of 50 psi. After 24 hours, filter through celite, rinse with methanol. Evaporate the filtrate in vacuo to give the title compound: Rf=0.01 (silica gel, 2% triethylamine/methanol).

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine | 2.45 mmol, 0.72 g | C(C1=CC=CC=C1)N1CC(CC1)(CCO)CC1=CC=CC=C1 | C20H25NO
catalyst | palladium hydroxide-on-carbon | 0.231 g | O.[Pd]
solvent | methanol | 20 mL | CO | CH4O
product | 3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine | C1(=CC=CC=C1)CC1(CNCC1)CCO | C13H19NO
